US08211820B2
Preparation of 2-(2,4,6-trimethylphenyl)-pyridine
Using a THF solution of mesitylmagnesium bromide (0.974 mL, 0.77 M, 0.75 mmol), 2-bromopyridine (158.0 mg, 1.0 mmol), FeF3.3H2O (5.01 mg, 0.03 mmol) and 1,3-bis(2,6-diisopropylphenyl)imidazolinium chloride (38.4 mg, 0.09 mmol) as starting materials, the reaction was performed at a scale of 1.0 mmol at 90° C. for 24 hours in the same manner as in Example 2. After performing silica gel column chromatography (EtOAc=10 and 20% in hexane), the above compound was obtained as a yellow liquid (0.150 g, yield=76%, purity=>99% (GC analysis)).

reactant | THF | C1CCOC1 | C4H8O
reactant | mesitylmagnesium bromide | 0.75 mmol, 0.77 M, 0.974 mL | C1(=C(C(=CC(=C1)C)C)[Mg]Br)C
reactant | 2-bromopyridine | 1.0 mmol, 158.0 mg | BrC1=NC=CC=C1 | C5H4BrN
reactant | 1,3-bis(2,6-diisopropylphenyl)imidazolinium chloride | 0.09 mmol, 38.4 mg | [Cl-].C(C)(C)C1=C(C(=CC=C1)C(C)C)[NH+]1CN(CC1)C1=C(C=CC=C1C(C)C)C(C)C
solvent | hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(2,4,6-trimethylphenyl)-pyridine | yield=76% | CC1=C(C(=CC(=C1)C)C)C1=NC=CC=C1 | C14H15N
